US06921759B2
Step 3: Preparation of 1-[4-fluoro-2-(methylsulfonyl)phenyl]methanaminium chloride
4-fluoro-2-(methylsulfonyl)benzonitrile (5.6 g, 28.11 mmol) was added to a dry Parr bottle. Ethanol (50 mL) and conc HCl (10 mL) were added and the reaction solution put under an Argon atmosphere. 10% Pd/C (1 gram) was added and the reaction vessel placed on a Parr hydrogenation apparatus. The reaction was placed under an atmosphere of H2 (50 psi) and shaken overnight. After overnight the ratio of starting material to product was 50:50. The reaction was filtered through celite and concentrated slightly. Conc. HCl (10 mL) and 10% Pd/C (1 gram) were added and the reaction was again put under H2 (50 psi). The reaction was again shaken overnight. The crude reaction was filtered through celite and concentrated to afford the desired material as a white solid.

reactant | 4-fluoro-2-(methylsulfonyl)benzonitrile | 28.11 mmol, 5.6 g | FC1=CC(=C(C#N)C=C1)S(=O)(=O)C | C8H6FNO2S
reactant | HCl | 10 mL | Cl | ClH
catalyst | Pd/C | 1 gram | [Pd] | Pd
solvent | Ethanol | 50 mL | C(C)O | C2H6O
product | 1-[4-fluoro-2-(methylsulfonyl)phenyl]methanaminium chloride | [Cl-].FC1=CC(=C(C=C1)C[NH3+])S(=O)(=O)C | InChI=1S/C8H10FNO2S.ClH/c1-13(11,12)8-4-7(9)3-2-6(8)5-10;/h2-4H,5,10H2,1H3;1H
